US04684539
The starting phosphor is first washed in a solution, preferably saturated solution of strontium hydroxide. This is generally done in a number of wash steps to produce a first washed phosphor. The washing is done primarily to remove residual boric acid which is present on the surface of the phosphor particles as a result of the phosphor manufacturing process. In this washing step, strontium hydroxide reacts with the boric acid to produce strontium hexaborate which is more soluble than the strontium borate phosphor itself.

reactant | strontium hydroxide | [OH-].[Sr+2].[OH-]
reactant | boric acid | B(O)(O)O | BH3O3
product | strontium hexaborate | B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[Sr+2].[Sr+2].[Sr+2].[Sr+2].[Sr+2].[Sr+2].[Sr+2].[Sr+2].[Sr+2] | InChI=1S/6BO3.9Sr/c6*2-1(3)4;;;;;;;;;/q6*-3;9*+2
